US04017522
N-methyl-N-(2-furoyloxyethyl)erucamide
N-methyl-N-(2-furoyloxyethyl)erucamide was prepared by the procedure of example 1 from 39.5 gms. (0.1 mole) of N-methyl-N-(2-hydroxyethyl)erucamide and 13 gms. (0.1 mole) of furoyl chloride. The structure of the final product was characterized on the basis of IR and NMR spectral analyses as described in example 1.

reactant | N-methyl-N-(2-hydroxyethyl)erucamide | 0.1 mole | CN(C(CCCCCCCCCCC\C=C/CCCCCCCC)=O)CCO | C25H49NO2
reactant | furoyl chloride | 0.1 mole | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
product | N-methyl-N-(2-furoyloxyethyl)erucamide | CN(C(CCCCCCCCCCC\C=C/CCCCCCCC)=O)CCOC(=O)C=1OC=CC1 | C30H51NO4
